US04769367
(±)-cis-9,9a-Dihydro-1H-furo[3,4-b][1]benzopyran-3-(3aH)-one
A suspension of 1H-furo[3,4-b][1]benzopyran-3,9-dione (6.1 g) in glacial acetic acid (300 ml) was hydrogenated over 10% palladium on charcoal (1 g) until hydrogen uptake ceased. The catalyst was filtered off and the solvent evaporated from the filtrate to give an oil. The oil was dissolved in ethyl acetate and the solution washed with aqueous sodium bicarbonate and brine. The organic layer was separated, dried (MgSO4) and the solvent evaporated. Crystallisation of the residue from ethyl acetate/ether gave the title compound (3.85 g) m.p. 107°-111°.

reactant | 1H-furo[3,4-b][1]benzopyran-3,9-dione | 6.1 g | C1OC(C=2OC3=C(C(C21)=O)C=CC=C3)=O | C11H6O4
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 1 g | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-cis-9,9a-Dihydro-1H-furo[3,4-b][1]benzopyran-3-(3aH)-one | 3.85 g | C1OC([C@H]2OC3=C(C[C@H]21)C=CC=C3)=O | C11H10O3
